US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-ethoxy-phenylboronic acid to give [1-(4-ethoxy-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 331(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-ethoxy-phenylboronic acid | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
product | [1-(4-ethoxy-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | C(C)OC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C20H18N4O
